US09255107B2
Step 1: Preparation of N-(3-iodo-4-methylphenyl)-N′-[4-((4-methylpiperazin-1-yl)methyl)-3-trifluoromethylphenyl]urea
Triphosgene (1.04 g, 3.5 mmol) and ClCH2CH2Cl (20 ml) were added into a 100 ml round-bottomed flask, and stirred at room temperature until triphosgene was completely dissolved and the system appears colorless and transparent. The reaction system was placed in an ice-salt bath and stirred, 3-iodo-4-methylaniline (1.64 g, 7 mmol) in ClCH2CH2Cl solution (20 ml) was slowly added dropwise, and the system appears yellow milky. After the addition was complete, the mixture was stirred at room temperature for 4 hours. Et3N (1.43 g, 14 mmol) was added and stirred at room temperature for 0.5 hour. 4-(4-methylpiperazin-1-ylmethyl)-3-trifluoromethylaniline (1.87 g, 7 mmol) was added and stirred at room temperature for 16 hours. The volatiles were removed by distillation under reduced pressure, and the residue was extracted with ethyl acetate (30 ml×3) and H2O (30 ml). The organic phases were combined, dried over anhydrous Na2SO4, concentrated, and purified by column chromatography, to give a yellow solid.

reactant | Triphosgene | 3.5 mmol, 1.04 g | ClC(Cl)(OC(OC(Cl)(Cl)Cl)=O)Cl | C3Cl6O3
reactant | 3-iodo-4-methylaniline | 7 mmol, 1.64 g | IC=1C=C(N)C=CC1C | C7H8IN
reactant | Et3N | 14 mmol, 1.43 g | CCN(CC)CC | C6H15N
reactant | 4-(4-methylpiperazin-1-ylmethyl)-3-trifluoromethylaniline | 7 mmol, 1.87 g | CN1CCN(CC1)CC1=C(C=C(N)C=C1)C(F)(F)F | C13H18F3N3
solvent | ClCH2CH2Cl | 20 ml | C(CCl)Cl | C2H4Cl2
solvent | ClCH2CH2Cl | 20 ml | C(CCl)Cl | C2H4Cl2
product | N-(3-iodo-4-methylphenyl)-N′-[4-((4-methylpiperazin-1-yl)methyl)-3-trifluoromethylphenyl]urea | IC=1C=C(C=CC1C)NC(=O)NC1=CC(=C(C=C1)CN1CCN(CC1)C)C(F)(F)F | C21H24F3IN4O
